US04374266
One part of the 4,5-difluorophthalamic acid was heated to 170° C. for a period of 30 minutes, then cooled, dissolved in toluene and crystallized therefrom. The crystalline product was separated by filtration to yield 0.56 parts of 4,5-difluorophthalimide, having a melting range of 154°-156° C. The structure was confirmed by C13 nuclear magnetic resonance analysis.

reactant | 4,5-difluorophthalamic acid | FC=1C=C(C(C(=O)O)=CC1F)C(=O)N | C8H5F2NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5-difluorophthalimide | FC=1C=C2C(C(=O)NC2=O)=CC1F | C8H3F2NO2
